US07786165B2
methyl 3-{4-[[(2-nitrophenyl)sulfonyl](4-{[(1E)-(4-phenyl-1,3-thiazol-2-yl)methylene]amino}benzyl)amino]phenyl}propanoate
To a solution of methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (364 mg, 1.0 mmol), (4-{[(1E)-(4-phenyl-1,3-thiazol-2-yl)methylene]amino}phenyl)methanol (297 mg, 1.0 mmol) and triphenylphosphine (393 mg, 1.5 mmol) in tetrahydrofuran (4 mL) was added diethyl azodicarboxylate (40% toluene solution, 660 mg, 1.5 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was purified by silica gel column chromatography (5%-70% ethyl acetate/hexane) to give a yellow oil containing the title compound.

reactant | methyl 3-(4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.0 mmol, 364 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CCC(=O)OC | C16H16N2O6S
reactant | (4-{[(1E)-(4-phenyl-1,3-thiazol-2-yl)methylene]amino}phenyl)methanol | 1.0 mmol, 297 mg | C1(=CC=CC=C1)C=1N=C(SC1)\C=N\C1=CC=C(C=C1)CO | C17H14N2OS
reactant | triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.5 mmol, 660 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | methyl 3-{4-[[(2-nitrophenyl)sulfonyl](4-{[(1E)-(4-phenyl-1,3-thiazol-2-yl)methylene]amino}benzyl)amino]phenyl}propanoate | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(C1=CC=C(C=C1)CCC(=O)OC)CC1=CC=C(C=C1)/N=C/C=1SC=C(N1)C1=CC=CC=C1 | C33H28N4O6S2
